US07276539B2
(vii) 2-{[2-(4-Hydroxyphenyl)ethyl]thio}-3-[4-(2-{4-[(methylsulfonyl)oxy]-phenoxy}ethyl)phenyl]propanoic acid
Methyl 2-{[2-(4-hydroxyphenyl)ethyl]thio}-3-[4-(2-{4-[(methylsulfonyl)oxy]phenoxy}-ethyl)phenyl]propanoate (105 mg, 0.2 mmol) was dissolved in 6.5 ml of a 7:1 mixture of THF and water and cooled on an ice-bath. Lithium hydroxide (9.4 mg, 0.4 mmol) was added. Water was added to the reaction mixture after 24 hours of stirring at room temperature. The THF was evaporated under reduced pressure and the residue was acidified with 1M hydrochloric acid. The water phase was extracted with EtOAc (×3), the organic phases were pooled, washed (water, brine), dried (MgSO4) and evaporated. The crude product was purified using preparative HPLC (eluent: CH3CN/5% CH3CN-waterphase containing 0.1M NH4OAc) to give 74 mg of the desired product (yield 97%) as an oil.

reactant | Methyl 2-{[2-(4-hydroxyphenyl)ethyl]thio}-3-[4-(2-{4-[(methylsulfonyl)oxy]phenoxy}-ethyl)phenyl]propanoate | 0.2 mmol, 105 mg | OC1=CC=C(C=C1)CCSC(C(=O)OC)CC1=CC=C(C=C1)CCOC1=CC=C(C=C1)OS(=O)(=O)C | C27H30O7S2
reactant | Lithium hydroxide | 0.4 mmol, 9.4 mg | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-{[2-(4-Hydroxyphenyl)ethyl]thio}-3-[4-(2-{4-[(methylsulfonyl)oxy]-phenoxy}ethyl)phenyl]propanoic acid | 74 mg, yield 97% | OC1=CC=C(C=C1)CCSC(C(=O)O)CC1=CC=C(C=C1)CCOC1=CC=C(C=C1)OS(=O)(=O)C | C26H28O7S2
